US06395734B1
3-[4-(2-Carboxyethyl)-3-methyl-1H-pyrrol-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indole-5-carboxylic acid methyl ester
4-(2-Carboxyethyl)-2-formyl-3-methylpyrrole (90.6 mg), 88.6 mg 5-methoxycarbonyl-2-oxindole, and 75 μL piperidine in 2 mL of ethanol were heated at 95° C. for 5 hours. The reaction mixture was cooled and concentrated. The residue was suspended in 6 N aqueous hydrochloric acid. The precipitate was filtered, washed with water to pH 6 and dried in a vacuum oven to give 123 mg (69%) of the title compound as a yellow solid.

reactant | 4-(2-Carboxyethyl)-2-formyl-3-methylpyrrole | 90.6 mg | C(=O)(O)CCC=1C(=C(NC1)C=O)C | C9H11NO3
reactant | 5-methoxycarbonyl-2-oxindole | 88.6 mg | COC(=O)C=1C=C2CC(NC2=CC1)=O | C10H9NO3
reactant | piperidine | 75 μL | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 3-[4-(2-Carboxyethyl)-3-methyl-1H-pyrrol-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indole-5-carboxylic acid methyl ester | 123 mg, 69% | COC(=O)C=1C=C2C(C(NC2=CC1)=O)=CC=1NC=C(C1C)CCC(=O)O | C19H18N2O5
